US07696240B2
3-Aminomethyl-5-fluoro-1-(5-fluoro-benzo[b]thiophen-3-ylmethyl)-1H-indole-2-carboxylic acid ethyl ester; salt with hydrogen chloride was reacted with methanesulfonyl chloride as described in Example 77.1. to give 5-fluoro-1-(5-fluoro-benzo[b]thiophen-3-ylmethyl)-3-(methanesulfonylamino-methyl)-1H-indole-2-carboxylic acid ethyl ester which was hydrolyzed as described in the general procedure B (Exp. 2.2) to give 5-fluoro-1-(5-fluoro-benzo[b]thiophen-3-ylmethyl)-3-(methanesulfonylamino-methyl)-1H-indole-2-carboxylic acid as a colorless solid. MS: 449.3 ([M−H]−).

reactant | 3-Aminomethyl-5-fluoro-1-(5-fluoro-benzo[b]thiophen-3-ylmethyl)-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1CN)F)CC=1C2=C(SC1)C=CC(=C2)F | C21H18F2N2O2S
reactant | hydrogen chloride | Cl | ClH
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 5-fluoro-1-(5-fluoro-benzo[b]thiophen-3-ylmethyl)-3-(methanesulfonylamino-methyl)-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1CNS(=O)(=O)C)F)CC=1C2=C(SC1)C=CC(=C2)F | C22H20F2N2O4S2
